US06916822B2
(g) 2-[4-(4,4-Dimethyloxazolin-2-yl)benzyl]anisole
In an amount of 23.5 mg of the 1-[4-(4,4-dimethyloxazolin-2-yl)phenyl]-1-(2-methoxyphenyl)methyl acetate obtained above was dissolved in methanol (0.47 ml), added with 10% palladium/carbon (24 mg) and ammonium formate (42 mg) under argon atmosphere and stirred at 60° C. for 2 hours. After insoluble matters were removed by filtration, the solvent was evaporated under reduced pressure. The residue was purified by preparative thin layer silica gel column chromatography (developing solvent: hexane:ethyl acetate=1:1) to obtain 14.4 mg of the title compound. Yield: 73%.

reactant | 1-[4-(4,4-dimethyloxazolin-2-yl)phenyl]-1-(2-methoxyphenyl)methyl acetate | 23.5 mg | C(C)(=O)OC(C1=C(C=CC=C1)OC)C1=CC=C(C=C1)C=1OCC(N1)(C)C | C21H23NO4
reactant | ammonium formate | 42 mg | C(=O)[O-].[NH4+]
solvent | methanol | 0.47 ml | CO | CH4O
catalyst | palladium/carbon | 24 mg | [Pd] | Pd
product | 2-[4-(4,4-Dimethyloxazolin-2-yl)benzyl]anisole | 14.4 mg, Yield: 73% | CC1(N=C(OC1)C1=CC=C(CC2=C(C=CC=C2)OC)C=C1)C | C19H21NO2
